US04159338
(A) 2-Dimethylamino-2-(2-thienyl)acetonitrile
A solution of 131.5 g. of dimethylamine hydrochloride in 200 ml of water was stirred and 59 g of sodium cyanide added. A solution of 112 g of 2-thiophenecarboxaldehyde in 100 ml of methanol was added from a dropping funnel while the temperature was kept below 30° C. The mixture was then maintained at 30° C. for 4 hours; it was then poured into 3 1. of water.

reactant | dimethylamine hydrochloride | Cl.CNC
reactant | sodium cyanide | 59 g | [C-]#N.[Na+]
reactant | 2-thiophenecarboxaldehyde | 112 g | S1C(=CC=C1)C=O | C5H4OS
solvent | water | 200 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Dimethylamino-2-(2-thienyl)acetonitrile | CN(C(C#N)C=1SC=CC1)C | C8H10N2S
